US07105552B2
(a) Synthesis of 3-(3,5-Dimethoxy-phenyl)-2-(4-hydroxy-phenyl)-propionic acid methyl ester, (Compound Va):
To a suspension of 3-(3,5-dimethoxy-phenyl)-2-(4-hydroxy-phenyl)-acrylic acid methyl ester (2.1 g) in dioxane (60 mL) 10% palladium on carbon (50% wet, 2.1 g) was added. Hydrogenation was carried out in a Parr shaker at 70 psi for 6.5 h. Catalyst was filtered through a bed of Celite and solvent was evaporated. Yield: quantitative. Analysis: 1HNMR (CDCl3): δ7.15 (d, J=8.7 Hz, 2H), 6.74 (d, J=8.7 Hz, 2H), 6.29(t, J=2.4 Hz, 1H), 6.25(d, J=2.4 Hz, 2H), 3.78 (t, J=8.7 Hz, 1H), 3.72(s, 6H), 3.62(s, 3H), 3.31(dd, J=13.5 & 8.4 Hz, 1H), 2.93(dd, J=13.5 & 6.9 Hz, 1H).

reactant | 3-(3,5-dimethoxy-phenyl)-2-(4-hydroxy-phenyl)-acrylic acid methyl ester | 2.1 g | COC(C(=CC1=CC(=CC(=C1)OC)OC)C1=CC=C(C=C1)O)=O | C18H18O5
solvent | dioxane | 60 mL, 2.1 g | O1CCOCC1 | C4H8O2
product | 3-(3,5-Dimethoxy-phenyl)-2-(4-hydroxy-phenyl)-propionic acid methyl ester | Yield: quantitative | COC(C(CC1=CC(=CC(=C1)OC)OC)C1=CC=C(C=C1)O)=O | C18H20O5
